US07919504B2
tert-Butyl ((2R,3S)-2-((tert-butoxycarbonyl)amino)-3-((tert-butyl(dimethyl)silyl)oxy)-3-(4-(trifluoromethyl)phenyl)propyl)(5-(3-fluoro-4-nitrophenyl)-1,3,4-thiadiazol-2-yl)carbamate:
To a mixture of tert-butyl 5-(3-fluoro-4-nitrophenyl)-1,3,4-thiadiazol-2-ylcarbamate (0.64 g, 1.89 mmol) in THF (6 mL) was added cesium carbonate (1.07 g, 3.28 mmol). The mixture was heated to 55° C. for 10 minutes and then tert-butyl (4R)-4-((S)-((tert-butyl(dimethyl)silyl)oxy)(4-(trifluoromethyl)phenyl)methyl)-1,2,3-oxathiazolidine-3-carboxylate 2,2-dioxide (0.84 g, 1.64 mmol) in THF (4 mL) was added. The mixture was heated for 1 hour after the addition. HPLC-MS showed the product and thiadiazole starting material. The reaction was concentrated in vacuo and EtOAc (75 mL) was added. The mixture was cooled to 0° C. and 5% HCl (50 mL) was slowly added. The mixture was stirred for 1 hour. The organic phase was separated, and the aqueous phase was extracted twice with EtOAc. To the combined EtOAc solution was added saturated NaHCO3 and Na2CO3 until it was basic (pH=9). The organic layer was washed with brine, dried over Na2SO4, and then concentrated in vacuo. The residue was purified by chromatography on silica gel (50%-100% DCM-hexane) to provide the product as a yellow solid (1.18 g, 93%). LCMS (API-ES) m/z: 772 (M+H+).

reactant | tert-butyl 5-(3-fluoro-4-nitrophenyl)-1,3,4-thiadiazol-2-ylcarbamate | 1.89 mmol, 0.64 g | FC=1C=C(C=CC1[N+](=O)[O-])C1=NN=C(S1)NC(OC(C)(C)C)=O | C13H13FN4O4S
reactant | cesium carbonate | 3.28 mmol, 1.07 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl (4R)-4-((S)-((tert-butyl(dimethyl)silyl)oxy)(4-(trifluoromethyl)phenyl)methyl)-1,2,3-oxathiazolidine-3-carboxylate 2,2-dioxide | 1.64 mmol, 0.84 g | [Si](C)(C)(C(C)(C)C)O[C@H]([C@@H]1N(S(OC1)(=O)=O)C(=O)OC(C)(C)C)C1=CC=C(C=C1)C(F)(F)F | C21H32F3NO6SSi
reactant | thiadiazole | S1N=NC=C1 | C2H2N2S
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | tert-Butyl ((2R,3S)-2-((tert-butoxycarbonyl)amino)-3-((tert-butyl(dimethyl)silyl)oxy)-3-(4-(trifluoromethyl)phenyl)propyl)(5-(3-fluoro-4-nitrophenyl)-1,3,4-thiadiazol-2-yl)carbamate | 1.18 g, 93% | C(C)(C)(C)OC(=O)N[C@H](CN(C(OC(C)(C)C)=O)C=1SC(=NN1)C1=CC(=C(C=C1)[N+](=O)[O-])F)[C@H](C1=CC=C(C=C1)C(F)(F)F)O[Si](C)(C)C(C)(C)C | C34H45F4N5O7SSi
